US04997847
(iii) 2,2-Dimethyl-10-(4-chlorobenzenesulphonamido)decanoic Acid
Ethyl-10-(4-chlorobenzenesulphonamido)-2,2-dimethyldecanoate (1.4 g, 0.003 mol) was treated with sodium hydroxide by the method described in Example 5(iii) to give the title compound which was recrystallised from ether/pet. ether (0.59 g, m.p. 78°-9° C.).

reactant | Ethyl-10-(4-chlorobenzenesulphonamido)-2,2-dimethyldecanoate | 0.003 mol, 1.4 g | C(C)OC(C(CCCCCCCCNS(=O)(=O)C1=CC=C(C=C1)Cl)(C)C)=O | C20H32ClNO4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 2,2-Dimethyl-10-(4-chlorobenzenesulphonamido)decanoic Acid | CC(C(=O)O)(CCCCCCCCNS(=O)(=O)C1=CC=C(C=C1)Cl)C | C18H28ClNO4S
